US07153857B2
hydroxy{-1-[({4-[5-(pyridin-2-ylethynyl)pyridin-2-yl]piperazin-1-yl}sulfonyl)methyl]-4-pyrimidin-2-ylbutyl}formamide
To formic acid (1.5 mL, 39 mmol) at 0° C. was added acetic anhydride (375 μL, 3.9 mmol) and the mixture was stirred at RT for 10 minutes. The reaction was then recooled to 0° C., and a solution of 2-[4-(hydroxyamino)-5-({4-[5-(pyridin-2-ylethynyl)pyridin-2-yl]piperazin-1-yl}sulfonyl)pentyl]pyrimidine (403 mg, 0.79 mmol) in THF (8 mL) was then added. The reaction was brought to RT and stirred for one hour. Volatiles were then removed in vacuo, and the residue azeotroped with toluene (2×5 mL). The residue was then dissolved in MeOH (10 mL) and heated to 40° C. for one hour. The solution was then cooled to RT and concentrated in vacuo. The residue was then purified by flash chromatography (silica gel, 10% MeOH in EtOAc) to give the title compound as a pale yellow foam (231 mg, 0.43 mmol, 54%).

reactant | formic acid | 39 mmol, 1.5 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 3.9 mmol, 375 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-[4-(hydroxyamino)-5-({4-[5-(pyridin-2-ylethynyl)pyridin-2-yl]piperazin-1-yl}sulfonyl)pentyl]pyrimidine | 0.79 mmol, 403 mg | ONC(CCCC1=NC=CC=N1)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)C#CC1=NC=CC=C1 | C25H29N7O3S
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | hydroxy{-1-[({4-[5-(pyridin-2-ylethynyl)pyridin-2-yl]piperazin-1-yl}sulfonyl)methyl]-4-pyrimidin-2-ylbutyl}formamide | 0.43 mmol, 231 mg, 54% | ON(C=O)C(CCCC1=NC=CC=N1)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)C#CC1=NC=CC=C1 | C26H29N7O4S
